US03952001
Dipropylcarbamoyl chloride (5.4 g.) was added to a solution of 5.25 g. 3-propylsulphonyl-1,2,4-triazole and 6 ml. dry triethylamine in 25 ml. dry tetrahydrofuran and the resulting mixture was refluxed under anhydrous conditions for 2.5 hours. The cooled reaction mixture was filtered to remove triethylamine hydrochloride, the filtrate was distilled under reduced pressure to remove solvent, and the residue was dissolved in methylene dichloride. The resulting solution was washed with ice-cold 0.1N aqueous sodium hydroxide (2 × 50 ml.), then with 0.01N aqueous sulphuric acid (50 ml.) and finally with water. The resulting solution was dried over anhydrous sodium sulphate and was then distilled under reduced pressure to give a solid residue. This residue was recrystallized twice from petroleum ether (b.p. 60° - 80°C.) to give 1-dipropylcarbamoyl-3-propylsulphonyl-1,2,4-triazole, m.p. 79° - 80°C. Elemental analysis satisfactory.

reactant | Dipropylcarbamoyl chloride | 5.4 g | C(CC)N(C(=O)Cl)CCC | C7H14ClNO
reactant | 3-propylsulphonyl-1,2,4-triazole | C(CC)S(=O)(=O)C1=NNC=N1 | C5H9N3O2S
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-dipropylcarbamoyl-3-propylsulphonyl-1,2,4-triazole | C(CC)N(C(=O)N1N=C(N=C1)S(=O)(=O)CCC)CCC | C12H22N4O3S
